US07384967B2
1-[2-(2-Fluoro-6-methoxy-phenoxy)-5-morpholin-4-ylmethyl-phenyl]-3-thiazol-2-yl-urea (35 mg, 78%) was prepared from 1-[2-(2-fluoro-6-methoxy-phenoxy)-5-formyl-phenyl]-3-thiazol-2-yl-urea (39 mg, 0.1 mmol) and morpholine following the general procedure Q.

reactant | 1-[2-(2-fluoro-6-methoxy-phenoxy)-5-formyl-phenyl]-3-thiazol-2-yl-urea | 0.1 mmol, 39 mg | FC1=C(OC2=C(C=C(C=C2)C=O)NC(=O)NC=2SC=CN2)C(=CC=C1)OC | C18H14FN3O4S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-[2-(2-Fluoro-6-methoxy-phenoxy)-5-morpholin-4-ylmethyl-phenyl]-3-thiazol-2-yl-urea | 35 mg, 78% | FC1=C(OC2=C(C=C(C=C2)CN2CCOCC2)NC(=O)NC=2SC=CN2)C(=CC=C1)OC | C22H23FN4O4S
